* C:\Users\jezap\Desktop\Personal\Sonido\Circuit\GuitarLineInV2.asc
XTL974 Vin N001 V+ N003 Vo level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V1 N002 N004 SINE(0 0.4 1K) AC 1
V2 V+ 0 3.3V
V3 0 V- 5
C2 V+ 0 10µ
R3 N001 0 220R
R4 Vo N001 2k
C3 0 V+ 100n
C4 0 N003 100n
C1 0 V- 10µ
R6 N002 0 1m
R1 Vin N002 10k
R2 Vin N005 10k
V4 N005 0 0.33V
V5 N004 0 SINE(0 0.2 10k)
C5 Vin 0 7nF
.tran 20m
.lib UniversalOpAmp2.lib
.backanno
.end
